US04361559
(A) 11β-Acetyloxy-17β-ethylthio-9-fluoro-17-(methylthio)androsta-1,4-dien-3-one
A solution of 1.01 g (2.5 mmole) of 11β-acetyloxy-17-(ethylthio)-9-fluoroandrosta-1,4,16-trien-3-one in 15 ml of dry dichloromethane and 3.4 ml of a solution of methyl mercaptan in dichloromethane (1.82 g in 10 ml of dry dichloromethane) is cooled to about -40° C. (acetonitrile-dry ice bath) under nitrogen; boron trifluoride etherate (0.7 ml) is then added. The solution is stirred at approximately -40° C. under nitrogen for 3 hours, quenched with a saturated sodium bicarbonate solution at -40° C. under vigorous stirring, diluted with chloroform, washed with water, dried over anhydrous Na2SO4 and evaporated in vacuo to give 1.0 g of the title compound, melting point 185°-186° C., with consistent spectral data.

reactant | 11β-acetyloxy-17-(ethylthio)-9-fluoroandrosta-1,4,16-trien-3-one | 2.5 mmole, 1.01 g | C(C)(=O)O[C@@H]1[C@@]2([C@]3(C=CC(C=C3CC[C@H]2[C@@H]2CC=C([C@@]2(C)C1)SCC)=O)C)F | C23H29FO3S
reactant | methyl mercaptan | CS | CH4S
reactant | acetonitrile dry ice | C(C)#N.C(=O)=O
reactant | boron trifluoride etherate | 0.7 ml | B(F)(F)F.CCOCC
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml, 1.82 g | ClCCl | CH2Cl2
product | 11β-Acetyloxy-17β-ethylthio-9-fluoro-17-(methylthio)androsta-1,4-dien-3-one | 1.0 g | C(C)(=O)O[C@@H]1[C@@]2([C@]3(C=CC(C=C3CC[C@H]2[C@@H]2CCC([C@@]2(C)C1)(SC)SCC)=O)C)F | C24H33FO3S2
